US04088774
Sulphuric acid (210 cc) is added dropwise to a suspension of 3-hydroxy-2-phenylisoindolin-1-one (67.5 g) and 4-hydroxycoumarin (97.3 g) in acetic acid (675 cc) whilst maintaining the temperature between 15° and 18° C, and the mixture is stirred for 15 hours at a temperature of about 20° C. The reaction mixture is then run into icewater (3000 cc) and the precipitate is filtered off and washed with water (2500 cc). The filter cake is dried in a stream of air at a temperature of about 20° C. The product obtained is dissolved in dimethylformamide (800 cc) at 90° C. The solution is filtered and acetonitrile (900 cc) is then added. After cooling in an ice-bath for 2 hours, the solid is filtered off and washed with acetonitrile (1000 cc). It is dried under reduced pressure (0.1 mm Hg) for 15 hours at 20° C and then for 4 hours at 55° C and 2 hours at 80° C. 3-(4-Hydroxycoumarin-3-yl)-2-phenylisoindolin-1-one (95 g), melting at 335°-337° C, is thus obtained.

reactant | Sulphuric acid | 210 cc | S(O)(O)(=O)=O | H2O4S
reactant | 3-hydroxy-2-phenylisoindolin-1-one | 67.5 g | OC1N(C(C2=CC=CC=C12)=O)C1=CC=CC=C1 | C14H11NO2
reactant | 4-hydroxycoumarin | 97.3 g | OC1=CC(OC2=CC=CC=C12)=O | C9H6O3
solvent | acetic acid | 675 cc | C(C)(=O)O | C2H4O2
solvent | dimethylformamide | 800 cc | CN(C=O)C | C3H7NO
product | 3-(4-Hydroxycoumarin-3-yl)-2-phenylisoindolin-1-one | 95 g | OC1=C(C(OC2=CC=CC=C12)=O)C1N(C(C2=CC=CC=C12)=O)C1=CC=CC=C1 | C23H15NO4
